US04864021
Preparation of 2'-deoxy-5-fluoro-3'-O-(4-fluorobenzyl)uridine
A 7.5 g quantity of potassium hydroxide was dissolved in a mixture of 300 ml of water and 80 ml of dioxane. To the solution were added 2.00 g of 2'-deoxy-5-fluorouridine and 4.9 ml of 4-fluorobenzyl chloride, and the resulting mixture was stirred at 35° C. for 2 days. After the reaction, the same subsequent procedure as in Examples 4 and 5 was carried out, and the residue was placed on a silica gel column and eluted with 2% methanol-chloroform, thereby producing 0.57 g of the title compound in a yield of 20%.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2'-deoxy-5-fluorouridine | 2.00 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | 4-fluorobenzyl chloride | 4.9 ml | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | water | 300 ml | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 2'-deoxy-5-fluoro-3'-O-(4-fluorobenzyl)uridine | 0.57 g, yield of 20% | FC=1C(NC(N([C@H]2C[C@H](OCC3=CC=C(C=C3)F)[C@@H](CO)O2)C1)=O)=O | C16H16F2N2O5
